US03992452
2-methoxycyclohexanone was prepared by dissolving 132 gm. 2-chlorocyclohexanone in 600 ml. of methanol in the presence of 50 gm. calcium carbonate and heating the suspension at 160° C. for 15-20 minutes. After removal of the methanol, the calcium chloride was precipitated by the addition of methylene chloride to the residual material. The calcium chloride was removed by filtration and the filtrate was distilled to yield an 80-85% yield of 2-methoxycyclohexanone.

reactant | 2-chlorocyclohexanone | ClC1C(CCCC1)=O | C6H9ClO
reactant | calcium carbonate | C([O-])([O-])=O.[Ca+2]
solvent | methanol | CO | CH4O
product | 2-methoxycyclohexanone | 80-85% yield | COC1C(CCCC1)=O | C7H12O2
